US08633173B2
N-Methyl-N-(2-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-benzyl)-methanesulfonamide was prepared from N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-benzyl]-N-methyl-methanesulfonamide (75.0 mg, 0.205 mmol) and 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (47.0 mg, 0.228 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.017 g, 15%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.95 (d, J=6.7 Hz, 1H), 7.51 (d, J=8.9 Hz, 2H), 7.46-7.31 (m, 3H), 7.13 (t, J=7.4 Hz, 1H), 6.99 (s, 1H), 6.94 (d, J=8.9 Hz, 2H), 6.83 (d, J=7.7 Hz, 1H), 6.69 (t, J=7.1 Hz, 1H), 6.62 (s, 1H), 4.36 (s, 2H), 4.11 (t, J=6.0 Hz, 2H), 2.93-2.87 (m, 5H), 2.78 (s, 3H), 2.68-2.58 (m, 4H), 1.85-1.78 (m, 4H). MS=536 (MH)+.

reactant | N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-benzyl]-N-methyl-methanesulfonamide | 0.205 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NC2=C(CN(S(=O)(=O)C)C)C=CC=C2)=N1 | C15H16ClN5O2S
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.228 mmol, 47.0 mg | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(2-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-benzyl)-methanesulfonamide | CN(S(=O)(=O)C)CC1=C(C=CC=C1)NC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C27H33N7O3S
